US05514680
1-(Trifluoroacetamido)-3,4-bis(trifluoromethyl)benzene
To a solution of 228 mg (1.00 mmol) of 3,4-bis(trifluoromethyl)aniline in 4 mL of dioxane was added dropwise 0.4 mL of trifluoroacetic anhydride. The solution was stirred at room temperature overnight and diluted by water (8 mL). The precipitate was filtered and washed by water, and dried to leave an oily solid (274 mg 84%). 1H NMR (CDCl3), 7.916 (d, 1H, J=8.45), 8.026 (s, 1), 8.057 (d, 1, J=9.06), 8.25 (mb, 1). 19F NMR (CDCl3), 39.372 (s, 3), 55.214 (q, 3), 55.834 (q, 3).

reactant | 3,4-bis(trifluoromethyl)aniline | 1.00 mmol, 228 mg | FC(C=1C=C(N)C=CC1C(F)(F)F)(F)F | C8H5F6N
reactant | trifluoroacetic anhydride | 0.4 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 8 mL | O | H2O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 1-(Trifluoroacetamido)-3,4-bis(trifluoromethyl)benzene | FC(C(=O)NC1=CC(=C(C=C1)C(F)(F)F)C(F)(F)F)(F)F | C10H4F9NO
